US04668356
Preparation of n-heptadecane
140 mg (1.1 mmol) of N-hydroxypyridine-2-thione in 5 ml of benzene are added dropwise at room temperature under an atmosphere of nitrogen to a solution of 120 mg (1.2 mmol) of phosgene in 5 ml of benzene, and this leads to the instantaneous precipitation of a white solid. 286 mg (1 mmol) of stearic acid and 0.5 ml of pyridine are added in 5 ml of benzene, and the reaction medium is taken to reflux for 4 hours. 3 mmol of tri-n-butylstannane in 5 ml of benzene with 10 mg of AIBN are added to the reaction medium during 10 minutes and refluxing is maintained for 2 and half hours. The reaction is carried out in the presence of tetrachloromethane, iodine and potassium fluoride, as indicated earlier. By filtration on silica (100% pentane), 168 mg of n-heptadecane are obtained. Yield 70%.

reactant | N-hydroxypyridine-2-thione | 1.1 mmol, 140 mg | ON1C(C=CC=C1)=S | C5H5NOS
reactant | phosgene | 1.2 mmol, 120 mg | C(=O)(Cl)Cl | CCl2O
reactant | stearic acid | 1 mmol, 286 mg | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | tri-n-butylstannane | 3 mmol | C(CCC)[SnH](CCCC)CCCC
reactant | AIBN | 10 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | iodine | II | I2
reactant | potassium fluoride | [F-].[K+]
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | tetrachloromethane | ClC(Cl)(Cl)Cl | CCl4
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | n-heptadecane | Yield 70% | CCCCCCCCCCCCCCCCC | C17H36
